US06914074B2
1-Chloro-6-(3,5-difluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(3,5-difluoro-4-hydroxyphenyl)-2-naphthol (300 mg, 1.10 mmol) and NCS (155 mg, 1.16 mmol) in THF (30 mL) according to method C to yield 264 mg (78%) of grey solid: mp 209-210° C.; 1H NMR (DMSO-d6): δ 7.32 (1H, d, J=8.89 Hz), 7.50-7.61 (2H, m), 7.83 (1H, d, J=8.96 Hz), 7.92 (1H, dd. J=8.94 Hz, J=1.59 Hz), 8.05 (1H, d, J=8.88 Hz), 8.22 (1H, d, J=1.19 Hz), 10.36 (1H, s), 10.54 (1H, s); MS (ESI) m/z305/307 (M−H)−.

reactant | 6-(3,5-difluoro-4-hydroxyphenyl)-2-naphthol | 1.10 mmol, 300 mg | FC=1C=C(C=C(C1O)F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O2
reactant | NCS | 1.16 mmol, 155 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(3,5-difluoro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=CC(=C(C(=C1)F)O)F)O | C16H9ClF2O2
